US06867218B2
(E)-Ethyl 3-[1,1′;3′,1″]terphenyl-4″-yl-but-2-enoate (0.95 g, 2.77 mmol) was reduced with DIBAL-H by a procedure analogous to that described in example 52 b to give (E)-3-[1,1′;3′,1″]terphenyl-4″-yl-but-2-en-1-ol as a colourless solid; 0.81 g (97%).

reactant | (E)-Ethyl 3-[1,1′;3′,1″]terphenyl-4″-yl-but-2-enoate | 2.77 mmol, 0.95 g | C1(=CC=CC=C1)C1=CC(=CC=C1)C1=CC=C(C=C1)/C(=C/C(=O)OCC)/C | C24H22O2
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
product | (E)-3-[1,1′;3′,1″]terphenyl-4″-yl-but-2-en-1-ol | C1(=CC=CC=C1)C1=CC(=CC=C1)C1=CC=C(C=C1)/C(=C/CO)/C | C22H20O
